### PR TITLE
WIP : Compact quotient

### PR DESCRIPTION
**Pull request by WilliamCoram**

### CODE REVIEW

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
-  (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := sorry
+/-- The inclusion of `ringHaarChar_ker D_𝔸` into the product space `D_𝔸 × D_𝔸ᵐᵒᵖ`. -/
+def incl₂ : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸ᵐᵒᵖ :=
+  fun u => Units.embedProduct D_𝔸 (Subgroup.subtype (ringHaarChar_ker D_𝔸) u)
+
+/-- An auxillary set used in the proof of compact_quotient'. -/
+def M : Set (ringHaarChar_ker D_𝔸) := Set.preimage (incl₂ K D)
+  (Set.image (fun p => (p.1, MulOpposite.op p.2)) (Aux.C K D))
+
+/-- The map of `ringHaarChar_ker D_𝔸` to the wanted right quotient. -/
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
/-- The map from `ringHaarChar_ker D_𝔸` to the quotient `Dˣ \ ringHaarChar_ker D_𝔸`. -/
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+def q : Prod D_𝔸 D_𝔸ᵐᵒᵖ → D_𝔸 :=
+  fun p => MulOpposite.unop p.2 * p.1
+
+lemma p_cont : Continuous (p K D) := Continuous.mul (continuous_fst)
+  (Continuous.comp (MulOpposite.continuous_unop) continuous_snd)
+
+lemma q_cont : Continuous (q K D) := Continuous.mul (Continuous.comp (MulOpposite.continuous_unop)
+  continuous_snd) (continuous_fst)
+
+lemma embedProduct_preimageOf : (Set.range ⇑(Units.embedProduct (D ⊗[K] AdeleRing (𝓞 K) K))) =
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
lemma embedProduct_preimageOf : (Set.range ⇑(Units.embedProduct D_𝔸)) =
```
Isn't this easier to read?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    obtain ⟨x1, hx1⟩ : IsUnit x.1 := isUnit_iff_exists_and_exists.mpr
+      ⟨⟨MulOpposite.unop x.2, hp⟩, ⟨MulOpposite.unop x.2, hq⟩⟩
+    use x1
+    rw [hx1]
+    have : MulOpposite.op ↑x1⁻¹ = x.2 := by
+      refine MulOpposite.unop_inj.mp ?_
+      rw [← hx1] at hp
+      exact Units.inv_eq_of_mul_eq_one_right hp
+    simp only [this]
+
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
  · rw [p,q]
    rintro ⟨hp, hq⟩
    use ⟨x.1, MulOpposite.unop x.2, hp, hq⟩
    rfl
```
This is true for all monoids, right? Maybe you should prove it in the right generality?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 4]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+local instance : T2Space (D ⊗[K] AdeleRing (𝓞 K) K) := by
+  sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This would be much easier if you merged upstream/main into your branch.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+
+lemma embedProduct_closed : IsClosed (Set.range ⇑(Units.embedProduct (D ⊗[K] AdeleRing (𝓞 K) K)))
+    := by
+  rw [embedProduct_preimageOf]
+  exact IsClosed.inter (IsClosed.preimage (p_cont K D) (isClosed_singleton))
+    (IsClosed.preimage (q_cont K D) (isClosed_singleton))
+
+lemma M_compact : IsCompact (M K D) := by
+  apply Topology.IsClosedEmbedding.isCompact_preimage
+  · unfold incl₂
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: My instinct is that you should factor out the two goals that `apply` creates as sublemmas and just make this a three line proof. The smaller the lemmas the easier the code is to maintain for me as lean and mathlib changes.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 6]
```diff
@@ -187,8 +187,116 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+        Quot.mk ⇑(QuotientGroup.rightRel ((incl K D).range.subgroupOf
+        (ringHaarChar_ker (D ⊗[K] AdeleRing (𝓞 K) K))))
+        ⟨ν, hν⟩ := by
+      refine Quot.sound ?_
+      rw [@QuotientGroup.rightRel_apply]
+      refine Subgroup.mem_subgroupOf.mpr ?_
+      simp only [@Subgroup.coe_mul, InvMemClass.coe_inv, mul_inv_rev, mul_inv_cancel_left,
+        inv_mem_iff, MonoidHom.mem_range]
+      obtain ⟨x, hx⟩ := hc
+      use x
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
      exact hc
```
Do you understand why this works? :-)

**Review by kbuzzard — APPROVED** [review]
I am a bit confused about why Hannah and Ludwig are listed of authors of this file, they were the ones who originally proved that D_A was a topological ring but the proofs of this are now elsewhere (and attributed to them). I suggest you remove their names from the Authors field and replace with your own given that you've now written lots of this file.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 2 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: It is, there is probably a lot of examples like these I miss.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Will do. I will merge main either this weekend or early next week

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 5 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Good to know. Is there ever a limit where making exterior lemmas are unadvised?

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 3 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Sure, I will look at making a lemma in more generality. Is there somewhere you recommened placing these lemmas - or just leaving them in this file for now?

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 6 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Yeah, I sometimes get in the mindset of over using obtain, unfold, rw etc.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 5 above)
Comment (grunweg) [reply FLT/DivisionAlgebra/Finiteness.lean]: Drive-by comment: you start approaching the limit if you're pulling out `have` statements that are both very short and unlikely to ever be useful anywhere else. But if you're still learning, "extract as a lemma" is a good rule of thumb; you can learn to refine this over time.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 3 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: You could prove it in a scratch file with `import Mathlib` and then run `#find_home` and then put in `FLT/Mathlib/(the home)`

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: Thanks. Here's how to do it:
```lean
import Mathlib
import FLT.NumberField.AdeleRing
import FLT.Hacks.RightActionInstances

open NumberField

open scoped TensorProduct TensorProduct.RightActions
open IsDedekindDomain

variable (K : Type*) [Field K] [NumberField K]
variable (D : Type*) [DivisionRing D] [Algebra K D] [FiniteDimensional K D]

-- should be elsewhere
instance : T2Space (InfiniteAdeleRing K) := by
  unfold InfiniteAdeleRing
  infer_instance

-- should be elsewhere
instance : T2Space (AdeleRing (𝓞 K) K) := by
  unfold AdeleRing
  infer_instance

-- this is what's missing from mathlib
theorem IsModuleTopology.t2_of_finite_free (R : Type*) [CommRing R] [TopologicalSpace R]
    [IsTopologicalRing R] (M : Type*) [AddCommGroup M] [Module R M]
    [Module.Finite R M] [Module.Free R M] [TopologicalSpace M] [IsModuleTopology R M] [T2Space R] :
    T2Space M := by
  sorry

instance : T2Space (D ⊗[K] AdeleRing (𝓞 K) K) := by
  apply IsModuleTopology.t2_of_finite_free (AdeleRing (𝓞 K) K)
```

Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: I'll make it into a task

**Comment by WilliamCoram** [comment]
awaiting-review

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 7]
```diff
@@ -172,8 +173,75 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
 end Aux
 
-lemma compact_quotient : CompactSpace (ringHaarChar_ker D_𝔸 ⧸
-  (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := sorry
+/-- The inclusion of `ringHaarChar_ker D_𝔸` into the product space `D_𝔸 × D_𝔸ᵐᵒᵖ`. -/
+def incl₂ : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸ᵐᵒᵖ :=
+  fun u => Units.embedProduct D_𝔸 (Subgroup.subtype (ringHaarChar_ker D_𝔸) u)
+
+/-- An auxillary set used in the proof of compact_quotient'. -/
+def M : Set (ringHaarChar_ker D_𝔸) := Set.preimage (incl₂ K D)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:181]: `M` should be in the `Aux` namespace. 

In fact I now suspect that this `Aux` namespace is a bad idea and that we should just make all these auxiliary definitions private, but maybe I'll just deal with all this myself. M is fine for now.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 8]
```diff
@@ -172,8 +173,75 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+        (Subgroup.subtype_injective (ringHaarChar_ker (D ⊗[K] AdeleRing (𝓞 K) K))) ?_
+      simp only [Subgroup.coe_subtype]
+      refine Topology.IsInducing.isClosedMap ({ eq_induced := rfl }) ?_
+      simp only [Subtype.range_coe_subtype, SetLike.setOf_mem_eq]
+      exact IsClosed.preimage (continuous_id')
+        (IsClosed.preimage (map_continuous ringHaarChar) (by simp))
+
+lemma ImAux_isCompact : IsCompact ((fun p ↦ (p.1, MulOpposite.op p.2)) '' Aux.C K D) := by
+  refine IsCompact.image (Aux.C_compact K D) (Continuous.prodMk (continuous_fst) ?_)
+  refine Continuous.comp ?_ (continuous_snd)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Your goal at this point is that some function is continuous, and `fun_prop` closes it.

```lean
lemma ImAux_isCompact : IsCompact ((fun p ↦ (p.1, MulOpposite.op p.2)) '' Aux.C K D) :=
  IsCompact.image (Aux.C_compact K D) <| by fun_prop
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 9]
```diff
@@ -172,8 +173,75 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    rw [this]
+    rfl
+
+-- elsewhere
+local instance : T2Space (D ⊗[K] AdeleRing (𝓞 K) K) := by
+
+  sorry
+
+lemma incl₂_isClosedEmbedding : Topology.IsClosedEmbedding (incl₂ K D) := by
+  · apply Topology.IsClosedEmbedding.comp
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: The dot and indentation aren't needed.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 10]
```diff
@@ -216,4 +284,5 @@ theorem NumberField.FiniteAdeleRing.DivisionAlgebra.finiteDoubleCoset
     Finite (Doset.Quotient (Set.range (incl₁ K D)) U) := by
   sorry
 
+
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
```

File: FLT/Mathlib/Algebra/Group/Prod.lean [hunk 11]
```diff
@@ -0,0 +1,42 @@
...
+
+import Mathlib.Topology.Algebra.Constructions -- min_imports for this addition
+import Mathlib.Topology.Algebra.Monoid.Defs
+
+--- Believe this should go under embedProduct (lines 616)
+
+variable (L : Type*) [Monoid L]
+
+/-- Auxillary map used in `embedProduct_preimageOf`. -/
+def p : Prod L Lᵐᵒᵖ → L :=
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Group/Prod.lean:11]: This should be a `local abbrev`, not a def. We don't really want to be defining a bunch of stuff called things like `p`, these are not idiomatic names.

File: FLT/Mathlib/Algebra/Group/Prod.lean [hunk 12]
```diff
@@ -0,0 +1,42 @@
+import Mathlib.Algebra.Group.Prod
+
+import Mathlib.Topology.Algebra.Constructions -- min_imports for this addition
+import Mathlib.Topology.Algebra.Monoid.Defs
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Group/Prod.lean]: Yeah, you definitely can't put these imports into Mathlib.Algebra.Group.Prod, that file is completely algebra, it doesn't import any topology and the maintainers won't allow you to suddenly import loads of topology into the basic algebra heirarchy. You could create a new file `Mathlib.Topology.Algebra.Group.Prod` maybe in the mathlib PR, but to be honest you can just dump it in `Mathlib.Topology.Algebra.Group.Basic`, that looks like a sensible place to put it. Can you rename this file to `FLT.Mathlib.Topology.Algebra.Group.Basic`; the convention in this repo is that stuff in FLT.Mathlib.X should go into Mathlib.X but as I say, basic group theory definitely isn't allowed to import topology.

File: FLT/Mathlib/Algebra/Group/Prod.lean [hunk 13]
```diff
@@ -0,0 +1,42 @@
...
+
+variable (L : Type*) [Monoid L]
+
+/-- Auxillary map used in `embedProduct_preimageOf`. -/
+def p : Prod L Lᵐᵒᵖ → L :=
+  fun p => p.1 * MulOpposite.unop p.2
+
+/-- Auxillary map used in `embedProduct_preimageOf`. -/
+def q : Prod L Lᵐᵒᵖ → L :=
+  fun p => MulOpposite.unop p.2 * p.1
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Group/Prod.lean]: You can't just make new definitions like this (in mathlib, and ideally in this repo too). `p` does not satisfy the naming convention -- indeed it only satisfies the mathematician's crappy naming convention: "we need a function, let's call it by a random letter". You don't need to introduce these functions at all, I would just delete them, the continuity proofs can all be done by the `fun_prop` tactic.

File: FLT/Mathlib/Algebra/Group/Prod.lean [hunk 14]
```diff
@@ -0,0 +1,42 @@
...
+
+lemma p_cont [TopologicalSpace L] [ContinuousMul L] : Continuous (p L) :=
+    Continuous.mul (continuous_fst) (Continuous.comp (MulOpposite.continuous_unop) continuous_snd)
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Group/Prod.lean]: The proof of this is `unfold p; fun_prop`, but this lemma shouldn't even exist.

File: FLT/Mathlib/Algebra/Group/Prod.lean [hunk 15]
```diff
@@ -0,0 +1,42 @@
...
+  · rintro ⟨hp, hq⟩
+    use ⟨x.1, MulOpposite.unop x.2, hp, hq⟩
+    rfl
+
+lemma embedProduct_closed [TopologicalSpace L] [ContinuousMul L] [T1Space L] :
+    IsClosed (Set.range ⇑(Units.embedProduct L))
+    := by
+  rw [embedProduct_preimageOf]
+  exact IsClosed.inter (IsClosed.preimage (p_cont L) (isClosed_singleton))
+    (IsClosed.preimage (q_cont L) (isClosed_singleton))
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Group/Prod.lean]: The lemmas should start here, you can remove all the p,q stuff.

```suggestion
open MulOpposite Set Units in
lemma embedProduct_preimageOf : (range ⇑(embedProduct L)) =
    {x : L × Lᵐᵒᵖ | x.1 * unop x.2 = 1 ∧ unop x.2 * x.1 = 1} := by
  ext x
  constructor
  · rintro ⟨y, rfl⟩
    simp
  · rintro h
    exact ⟨⟨x.1, unop x.2, h.1, h.2⟩, rfl⟩

lemma embedProduct_closed [TopologicalSpace L] [ContinuousMul L] [T1Space L] :
    IsClosed (Set.range ⇑(Units.embedProduct L))
    := by
  rw [embedProduct_preimageOf]
  exact .inter (.preimage (by fun_prop) isClosed_singleton)
    (.preimage (by fun_prop) isClosed_singleton)
```

**Review by kbuzzard — APPROVED** [review]
I'll sort out the auxiliary definitions, they should probably all be private. Thanks, this is nearly ready.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 16]
```diff
@@ -172,8 +173,75 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      simp only [@Subgroup.coe_mul, InvMemClass.coe_inv, mul_inv_rev, mul_inv_cancel_left,
+        inv_mem_iff, MonoidHom.mem_range]
+      exact hc
+    rw [this]
+    rfl
+
+-- elsewhere
+local instance : T2Space (D ⊗[K] AdeleRing (𝓞 K) K) := by
+
+  sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: If you merge main, then this sorry should just be `IsModuleTopology.t2space (AdeleRing (𝓞 K) K)`.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 8 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I did not know about fun_prop, this is helpful to know, cheers

File: FLT/Mathlib/Algebra/Group/Prod.lean (hunk 12 above)
Comment (WilliamCoram) [reply FLT/Mathlib/Algebra/Group/Prod.lean]: Sure, I think I used find_home on ``p`` and thats where it suggested - where as it could not find any home for the later theorems. I will move them to your recommendations. I will also create a PR for them soon (after your suggestions below).

File: FLT/Mathlib/Algebra/Group/Prod.lean (hunk 13 above)
Comment (WilliamCoram) [reply FLT/Mathlib/Algebra/Group/Prod.lean]: Makes sense. I will remember this for the future.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 16 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Thanks!

**Comment by WilliamCoram** [comment]
awaiting-review
